.CMOS transient analysis
.options wnflag=1

.include "sky130_fd_pr/models/custom1.spice"



XM1 Vout Vin VDD VDD sky130_fd_pr__pfet_01v8 w=2 l=0.5
XM2 Vout B VDD VDD sky130_fd_pr__pfet_01v8 w=2 l=0.5
XM3 Vout Vin Vx 0 sky130_fd_pr__nfet_01v8 w=1 l=0.5
XM4 Vx B 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.5
CLOAD Vout 0 10pf















V1 Vin 0 PULSE (0 1.8 0 0.01n 0.01n 50ns 100ns)
V2 VDD 0 dc 1.8V	
V3 B 0 dc 1.8V


.control


let run  = 0
foreach in_delay  0.01n 0.023n 0.0531329n 0.122474n 0.282311n 0.650743n 1.5n 

** Initiating Text Files in folder data
echo "input_delay:$in_delay" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/input_delay.txt
echo "input_delay:$in_delay" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/cell_fall.txt
echo "input_delay:$in_delay" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/cell_rise.txt
echo "input_delay:$in_delay" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/fall_transition.txt
echo "input_delay:$in_delay" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/rise_transition.txt
    
   

echo "input_delay:$in_delay" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/rise_power.txt

echo "input_delay:$in_delay" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/fall_power.txt


reset
foreach out_cap 0.0005p 0.0012105800p 0.002931p 0.00709641p 0.0171815p 0.0415991p 0.100718p  

alter @V1[PULSE] = [ 0 1.8 0 $in_delay $in_delay 50ns 100ns ]
alter CLOAD $out_cap

tran 0.01n 150ns
run

print run







**Cell rise delay
meas tran crise TRIG v(Vin) VAL=0.9 FALL=1 TARG v(Vout) VAL=0.9 RISE=1
print crise
echo "out_cap:$out_cap:cell_rise:$&crise" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/cell_rise.txt



**Cell fall delay
meas tran cfall TRIG v(Vin) VAL=0.9 RISE=1 TARG v(Vout) VAL=0.9 FALL=1
print cfall
echo "out_cap:$out_cap:cell_fall:$&cfall" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/cell_fall.txt



**output rise transitin
meas tran Rise_tran TRIG v(Vout) VAL=0.36 RISE=1 TARG v(Vout) VAL=1.44 RISE=1
Print Rise_tran
echo "out_cap:$out_cap:rise_transition:$&rise_tran" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/rise_transition.txt
   


**output fall transitin
meas tran Fall_tran TRIG v(Vout) VAL=1.44 FALL=1 TARG v(Vout) VAL=0.36 FALL=1
print Fall_tran
echo "out_cap:$out_cap:fall_transition:$&fall_tran" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/fall_transition.txt


**Rise power
meas tran Iavg_r AVG v2#branch from=50ns to=90ns
let Rise_pow=1.8*Iavg_r
echo "out_cap:$out_cap:Rise_power:$&Rise_pow" >>  /home/ayush/mini_project/Ngspice_sim/cmos_cir1/rise_power.txt

**Fall power
meas tran Iavg_l AVG v2#branch from=0ns to=45ns
let Fall_pow=1.8*Iavg_l
echo "out_cap:$out_cap:Fall_power:$&Fall_pow" >> /home/ayush/mini_project/Ngspice_sim/cmos_cir1/fall_power.txt

let run=run+1

end

end

plot vout vin

.endc







